US08426411B2
Step K: 4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentanecarboxylic acid
To a scalemic mixture enriched in (1S,2R,4R)-2-ethyl-4-hydroxycyclopentanecarboxylic acid (2.56 g, 16.21 mmol) in DMF (10.81 mL) was added TBDMSCl (2.93 g, 19.45 mmol) and imidazole (2.76 g, 40.5 mmol). The reaction mixture was stirred at ambient temperature for about 2 days then extracted with pentane (3×25 mL). The combined pentane layers were washed with water (25 mL) and brine (25 mL), dried over anhydrous MgSO4, filtered and concd under reduced pressure. The residue was purified using silica gel chromatography eluting with 20-100% EtOAc in heptane give a scalemic mixture enriched in (1S,2R,4R)-4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentanecarboxylic acid (1.13 g, 26%): LC/MS (Table 1, Method b) Rt=3.03 min; MS m/z: 273 (M+H)+.

reactant | (1S,2R,4R)-2-ethyl-4-hydroxycyclopentanecarboxylic acid | 16.21 mmol, 2.56 g | C(C)[C@H]1[C@H](C[C@@H](C1)O)C(=O)O | C8H14O3
reactant | TBDMSCl | 19.45 mmol, 2.93 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 40.5 mmol, 2.76 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 10.81 mL | CN(C)C=O | C3H7NO
solvent | (1S,2R,4R)-4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentanecarboxylic acid | 1.13 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H]([C@H](C1)C(=O)O)CC | C14H28O3Si
product | 4-(tert-butyldimethylsilyloxy)-2-ethylcyclopentanecarboxylic acid | [Si](C)(C)(C(C)(C)C)OC1CC(C(C1)C(=O)O)CC | C14H28O3Si
